US04052395
6-(4-amino-3-bromophenyl)-3(2H)pyridazinone
3 In a mixture of water and isopropanol (20 : 5) was suspended 0.45 g. of 6-(4-amino-3-bromophenyl)-4,5-dihydro-3(2H)pyridazinone, and to the resulting suspension were added 0.45 g. of sodium m-nitrobenzenesulfonate and 0.27 g. of sodium hydroxide. This mixture was then refluxed with heating for 3.5 hours and allowed to stand to cool. The mixture was neutralized with 6 N hydrochloric acid, and the precipitated yellow crystals were collected by filtration. The so obtained crystals were recrystallized from ethanol - acetone to give 0.4 g. of the desired product of m.p. 266° - 267° C.

reactant | 6-(4-amino-3-bromophenyl)-4,5-dihydro-3(2H)pyridazinone | NC1=C(C=C(C=C1)C=1CCC(NN1)=O)Br | C10H10BrN3O
reactant | sodium m-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-(4-amino-3-bromophenyl)-3(2H)pyridazinone | NC1=C(C=C(C=C1)C=1C=CC(NN1)=O)Br | C10H8BrN3O
